US04093812
Stir 2.3 g of 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carbonitrile with 4.4 ml of concentrated sulfuric acid for 15 hours at from 35° to 40° C. Pour the resulting solution onto 75 g of ice and water; separate the formed precipitate and wash it with water until it is no longer acid to obtain a 97% yield of 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxamide [m.p. 249.5° to 250.5° C (from dimethylformamide/methanol)].

reactant | 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carbonitrile | 2.3 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C#N)C1=NC=CC=C1 | C13H7N5O3
reactant | sulfuric acid | 4.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxamide | 97% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=NC=CC=C1 | C13H9N5O4
